US07037909B2
4-(5,8-Dichloro-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-3-ylmethyl)-phenol (General Cyclization Procedure)
In a pressure tube, 0.60 mmol of 4,7-dichloro-1H-indole-2,3-dione (130 mg) and 0.65 mmol of 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol (133.5 mg) in a mixture of trifluoroethanol (8 mL) and water (4 mL) was stirred at 125° C. overnight (16 hr). The mixture was cooled to room temperature, allowed to crystallize for 2 hours. The precipitated product was collected by filtration, washed with MeOH+water 1:1, then with chilled MeOH. Dried on high vacuum.

reactant | 4,7-dichloro-1H-indole-2,3-dione | 0.60 mmol, 130 mg | ClC1=C2C(C(NC2=C(C=C1)Cl)=O)=O | C8H3Cl2NO2
reactant | 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol | 0.65 mmol, 133.5 mg | NN1C(=NN=C1N)CC1=CC=C(C=C1)O | C9H11N5O
solvent | trifluoroethanol | 8 mL | C(C(F)(F)F)O | C2H3F3O
solvent | water | 4 mL | O | H2O
product | 4-(5,8-Dichloro-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-3-ylmethyl)-phenol | ClC1=C2C3=NN4C(N=C3NC2=C(C=C1)Cl)=NN=C4CC4=CC=C(C=C4)O | C17H10Cl2N6O
